### PR TITLE
[Merged by Bors] - feat(GroupTheory/Commutator/Basic): `⁅H₁, H₂⁆` is a normal subgroup of `H₁ ⊔ H₂`

### PR DESCRIPTION
**Pull request by SnirBroshi**
Shows `⁅H₁, H₂⁆ ≤ H₁ ⊔ H₂` and `(⁅H₁, H₂⁆.subgroupOf <| H₁ ⊔ H₂).Normal`, and adds `_ ≤ normalizer _ ↔` lemmas to help.

---
(from the book "Finite Groups" by Daniel Gorenstein)

Also renames `AddSubgroup.mem_normalizer_iff_conj_image_eq` because `to_additive` now renames `conj` to `addConj` and this theorem should stay in sync with its counterpart, even though it's not using `to_additive` because `MulAut` isn't additivized.

The proofs seem pretty long for such trivial lemmas, suggestions welcome :)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 1]
```diff
@@ -179,6 +189,22 @@ theorem commutator_le_inf [Normal H₁] [Normal H₂] : ⁅H₁, H₂⁆ ≤ H
...
+instance normal_subgroupOf_commutator_sup : (⁅H₁, H₂⁆.subgroupOf <| H₁ ⊔ H₂).Normal := by
+  refine normal_subgroupOf_of_le_normalizer <| sup_le ?_ ?_ <;>
+    apply le_normalizer_closure_iff.mpr <;>
+    rintro g hg _ ⟨g₁, hg₁, g₂, hg₂, rfl⟩
+  · apply (mul_mem_cancel_right <| commutator_mem_commutator hg hg₂).mp
+    rw [← commutatorElement_mul_left_eq_conj_mul g g₁ g₂]
+    exact commutator_mem_commutator (mul_mem hg hg₁) hg₂
+  · apply (mul_mem_cancel_left <| commutator_mem_commutator hg₁ hg).mp
+    rw [← mul_assoc, ← mul_assoc, ← commutatorElement_mul_right_eq_mul_conj]
+    exact commutator_mem_commutator hg₁ <| mul_mem hg hg₂
```
Comment (tb65536) [inline Mathlib/GroupTheory/Commutator/Basic.lean]: Would you mind splitting up the proof like this:
```
@[to_additive]
instance normalizer_commutator_ge_left : H₁ ≤ normalizer (⁅H₁, H₂⁆ : Subgroup G) := by
  sorry

@[to_additive]
instance normalizer_commutator_ge_right : H₂ ≤ normalizer (⁅H₁, H₂⁆ : Subgroup G) := by
  rw [commutator_comm]
  apply normalizer_commutator_ge_left

@[to_additive]
instance normal_subgroupOf_commutator_sup' : (⁅H₁, H₂⁆.subgroupOf <| H₁ ⊔ H₂).Normal :=
  normal_subgroupOf_of_le_normalizer <| sup_le
    (normalizer_commutator_ge_left H₁ H₂) (normalizer_commutator_ge_right H₁ H₂)
```

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 2]
```diff
@@ -371,6 +375,39 @@ variable (H) in
...
   normalizer_eq_top_iff.mpr h
 
+@[to_additive]
+theorem le_set_normalizer_iff {s : Set G} :
+    H ≤ normalizer s ↔ ∀ h ∈ H, ∀ g ∈ s, h * g * h⁻¹ ∈ s := by
+  refine ⟨fun hH h hh g hg ↦ hH hh g |>.mp hg, fun hH h hh k ↦ ⟨fun hk ↦ hH h hh k hk, fun hk ↦ ?_⟩⟩
+  simpa [mul_assoc] using hH h⁻¹ (inv_mem hh) _ hk
+
+@[to_additive]
+theorem le_normalizer_iff : H ≤ normalizer K ↔ ∀ h ∈ H, ∀ k ∈ K, h * k * h⁻¹ ∈ K := by
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean:385]: Would it be simpler to say `H ≤ normalizer K ↔ ∀ h ∈ H, ∀ k ∈ K, [h, k] ∈ K`?

Comment (tb65536) [reply Mathlib/Algebra/Group/Subgroup/Basic.lean:385]: Or actually even `H ≤ normalizer K ↔ [H, K] ≤ K`?

Comment (SnirBroshi) [reply Mathlib/Algebra/Group/Subgroup/Basic.lean:385]: The point was to make the RHS easy to prove and more like what one sees in a group theory textbook.
OTOH, I really like your respelling, and I guess it's not so terrible if people have to find and use [`commutator_le`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Commutator/Basic.html#Subgroup.commutator_le) + [`inv_mem`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Defs.html#Subgroup.inv_mem) + [`mul_mem`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Defs.html#Subgroup.mul_mem) to get the textbook spelling back, it might even push them towards slicker proofs.

Though they could also go through [`normal_subgroupOf_iff_le_normalizer`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html#Subgroup.normal_subgroupOf_iff_le_normalizer) + [`normal_subgroupOf_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html#Subgroup.normal_subgroupOf_iff) instead I guess.

Comment (SnirBroshi) [reply Mathlib/Algebra/Group/Subgroup/Basic.lean:385]: [Added](https://github.com/leanprover-community/mathlib4/pull/39227/commits/9cffbe89b471e9db60d8d0ab3ede8cc131077bfa) `le_normalizer_iff_commutator_le_{right/left}`, but I kept the original, it still seems kinda nice, and it's not so easy to convert between the two spellings.

The current proof uses `le_normalizer_iff`, but here's a standalone proof if we still want to drop `le_normalizer_iff`:
```lean
@[to_additive]
theorem le_normalizer_iff_commutator_le_right : H ≤ normalizer K ↔ ⁅H, K⁆ ≤ K := by
  refine ⟨fun hle ↦ ?_, fun hle h hh k ↦ ⟨fun hk ↦ ?_, fun hk ↦ ?_⟩⟩
  · exact commutator_le.mpr fun h hh k hk ↦ mul_mem (hle hh k |>.mp hk) (inv_mem hk)
  · exact (mul_mem_cancel_right <| inv_mem hk).mp <| hle <| commutator_mem_commutator hh hk
  · have := mul_mem (hle <| commutator_mem_commutator (inv_mem hh) hk) hk
    simpa [commutatorElement_def, mul_assoc] using this
```

**Review by tb65536 — APPROVED** [review]
It feels like this should be easier, but I can't see anything better. Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
